US03978129
1-Cyclopropyl-3-dimethylamino-1-(4-methoxyphenyl)-1-propanol.
The Grignard reagent prepared from 86 g. (0.46 mole) of 4-bromoanisole and 11.2 g. (0.46 mole) of magnesium metal in 200 ml. of dry ether was cooled to -20°C. and treated dropwise with 30 g. (0.23 mole) of cyclopropyl 2-dimethylaminoethyl ketone in 100 ml. of dry ether. After addition the mixture was allowed to warm to room temperature, then hydrolyzed with water and worked up as described in Preparation I. The oily product was distilled at 110°-115°C./0.1 mm.; the yield of free base was 16 g. (28%).

reactant | 4-bromoanisole | 0.46 mole | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | magnesium | 0.46 mole | [Mg] | Mg
reactant | ether | CCOCC | C4H10O
reactant | cyclopropyl 2-dimethylaminoethyl ketone | 0.23 mole | CN(CCC(=O)C1CC1)C | C8H15NO
solvent | water | O | H2O
product | 1-Cyclopropyl-3-dimethylamino-1-(4-methoxyphenyl)-1-propanol | C1(CC1)C(CCN(C)C)(O)C1=CC=C(C=C1)OC | C15H23NO2
